US09233104B2
To a solution of 5′-fluoro-5-nitro-3,3′-bipyridin-4-amine (LXXI) (621 mg, 2.65 mmol) in EtOH (18 mL) was added 10% Pd/C (93 mg, 15% by wt). The solution was purged with hydrogen and stirred for overnight at room temperature under hydrogen. The suspension was filtered through Celite and concentrated under vacuum. The crude product was purified through a silica gel column (100% CHCl3→3:97 MeOH[7N NH3]:CHCl3) to produce 5′-fluoro-3,3′-bipyridine-4,5-diamine (LXXII) as an off-white solid (542 mg, 2.65 mmol, 100% yield). 1H NMR (DMSO-d6, 500 MHz) δ ppm 4.78 (brs, 2H), 5.28 (brs, 2H), 7.46 (s, 1H), 7.70 (s, 1H), 7.73-7.76 (m, 1H), 8.44-8.45 (m, 1H), 8.56 (d, J=2.8 Hz, 1H); ESIMS found C10H9FN4 m/z 205 (M+H).

reactant | 5′-fluoro-5-nitro-3,3′-bipyridin-4-amine | 2.65 mmol, 621 mg | FC=1C=C(C=NC1)C=1C=NC=C(C1N)[N+](=O)[O-] | C10H7FN4O2
solvent | EtOH | 18 mL | CCO | C2H6O
catalyst | Pd/C | 93 mg | [Pd] | Pd
product | 5′-fluoro-3,3′-bipyridine-4,5-diamine | 2.65 mmol, 542 mg, 100% yield | FC=1C=C(C=NC1)C=1C=NC=C(C1N)N | C10H9FN4
